data/rdb19/train.csv
rxn,smiles,ea
3574,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([C:18](=[C:19][H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[H:26])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],25.64175280259224
5248,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21]([C:22](=[O:23])[O:24][C:25](=[C:26]([H:31])[H:32])[H:30])([H:27])([H:28])[H:29]>>[C:1]([C:2]([C:3]([H:4])([H:5])[H:30])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21]([C:22](=[O:23])[O:24][C:25]=[C:26]([H:31])[H:32])([H:27])([H:28])[H:29],26.01142875640653
3158,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[C:25]([C:26]([H:34])([H:35])[H:36])([H:32])[H:33])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([C:2]([H:10])([H:11])[C:23]([C:22]([C:21]([H:27])([H:28])[H:29])([H:30])[H:31])([H:24])[C:25]([C:26]([H:34])([H:35])[H:36])([H:32])[H:33])([H:7])([H:8])[H:9].[C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20],61.4001263526734
1762,[C:15]([C:16]([C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:18]([C:17]([C:16]([C:15]([H:19])([H:20])[H:21])([H:22])[H:23])[H:24])([H:25])[H:26])([H:11])[H:12])([H:8])([H:9])[H:10],16.322429556166753
1954,[C:11]([C:12]([H:13])[H:14])([H:15])([H:16])[H:17].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:6][C:12]([C:11]([H:15])([H:16])[H:17])([H:13])[H:14].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])[H:7],27.38049704331206
412,[O:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[H:16])([H:14])[H:15])([H:12])[H:13])([H:11])[H:17])([H:9])[H:10])[H:8],26.17855569749372
4418,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:10])[H:11])([C:4](=[O:5])[O:6][H:12])[H:23])([H:7])([H:8])[H:9],38.74459885270335
4282,[C:16]([C:17]([C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[C:18]([C:17]([C:16]([H:22])([H:23])[H:24])([H:25])[H:26])([H:19])[O:20][C:21]([H:27])([H:28])[H:29].[O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],42.387664229318034
4784,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6](=[O:7])[O:8][C:9](=[C:10]([H:15])[H:16])[H:14])([H:11])([H:12])[H:13]>>[C:1]([H:2])([H:3])([H:4])[C:10]([C:9]([O:8][C:6]([C:5]([H:11])([H:12])[H:13])=[O:7])[H:14])([H:15])[H:16],14.637159891484773
874,[C:19]([C:20]([C:21]([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38])([H:32])[H:33])([H:29])([H:30])[H:31].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])[H:12])([H:8])([H:9])[H:10].[C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])([H:13])[C:21]([C:20]([C:19]([H:29])([H:30])[H:31])([H:32])[H:33])([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38],66.89814396115253
3660,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[O:18][C:17]([H:24])([H:25])[H:26])([H:10])[H:11])([H:7])([H:8])[H:9],49.50868375634309
220,[C:12](=[C:13]([N:14]([C:15](=[O:16])[H:21])[H:20])[H:19])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:15](=[O:16])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[N:14]([C:13](=[C:12]([H:17])[H:18])[H:19])[H:20])([H:6])([H:7])[H:8],51.245083984627854
234,[O:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:8])[O:12][O:11][H:13])[H:7])[H:6]>>[O:11][H:13].[O:1]([C:2]1([H:7])[C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:8])[O:12]1)[H:6],14.719413953949696
